US06046213
A mixture of 6-methyl-7-hydroxychroman-4-one (the compound of Preparation 32, 1.50 g, 8.42 mmol), imidazole (1.15 g, 16.9 mmol), and triisopropylsilyl chloride (2.0 mL, 9.2 mmol) in dimethylformamide (30 mL) was stirred overnight at ambient temperature. The reaction was poured into water and extracted with ether (2×). The combined organic layer was washed with 1 N lithium chloride (2×), dried over magnesium sulfate, and concentrated to afford 3.01 g (100%) of 6-methyl-7-triisopropylsilyloxychroman-4-one as a dull yellow oil which had: NMR δ 7.64 (s, 1 H), 6.30 (s, 1 H), 4.45 (t, J=6.4 Hz, 2 H), 2.70 (t, J=6.4 Hz, 2 H), 2.14 (s, 3 H), 1.40-1.25 (m, 3 H), 1.09 (d, J=7.3 Hz, 18 H). The product also had a small silyl impurity and residual dimethylformamide present but was suitable for subsequent reaction.

reactant | 6-methyl-7-hydroxychroman-4-one | CC=1C=C2C(CCOC2=CC1O)=O | C10H10O3
reactant | imidazole | 16.9 mmol, 1.15 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 9.2 mmol, 2.0 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | water | O | H2O
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 6-methyl-7-triisopropylsilyloxychroman-4-one | 3.01 g, 100% | CC=1C=C2C(CCOC2=CC1O[Si](C(C)C)(C(C)C)C(C)C)=O | C19H30O3Si
